US07968581B2
Step 4: 4-[2,5-Dioxo-3-methyl-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 0.86 g of 4-[2,5-dioxo-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethyl-benzonitrile and 0.26 mL of iodomethane in 30 mL of DMF is added 430 mg of potassium carbonate. The mixture is stirred at rt for 5 hours, evaporated to dryness, diluted with water and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and evaporated. The crude product is purified by chromatography over silica gel while eluting with 70/30 heptane/ethyl acetate mixture to provide the desired product.

reactant | 4-[2,5-dioxo-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethyl-benzonitrile | 0.86 g | O=C1N(C(C(N1)(COCC=C)C1=CC=CC=C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C21H16F3N3O3
reactant | iodomethane | 0.26 mL | IC | CH3I
reactant | potassium carbonate | 430 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-[2,5-Dioxo-3-methyl-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | O=C1N(C(C(N1C)(COCC=C)C1=CC=CC=C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C22H18F3N3O3
